### PR TITLE
[Merged by Bors] - feat(RingTheory/MvPowerSeries): introduce `rename`

### PR DESCRIPTION
**Pull request by BryceT233**
This file establishes the `rename` operation on multivariate power series under a map with finite fibers,
which modifies the set of variables.

This file is patterned after 'Mathlib/Algebra/MvPolynomial/Rename.lean`

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/MvPowerSeries/Rename.lean [hunk 1]
```diff
@@ -0,0 +1,426 @@
...
+
+public import Mathlib.RingTheory.MvPowerSeries.Basic
+
+/-!
+# Renaming variables of power series
+
+This file establishes the `rename` operation on multivariate power series under an injective map,
+which modifies the set of variables.
+
+This file is patterned after `MvPolynomials/rename.lean`
```
Comment (Komyyy) [inline Mathlib/RingTheory/MvPowerSeries/Rename.lean]: Thank you for your contribution!

A little correction: [`MvPolynomial/Rename.lean`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/MvPolynomial/Rename.html)
```suggestion
This file is patterned after `MvPolynomial/Rename.lean`
```

File: Mathlib/RingTheory/MvPowerSeries/Rename.lean [hunk 2]
```diff
@@ -0,0 +1,426 @@
...
+
+@[expose] public section
+
+
+noncomputable section
+
+open MvPowerSeries Finset Finsupp
+
+variable {σ τ α R S : Type*} [CommSemiring R] [CommSemiring S]
+variable {f : σ → τ} (hf : f.Injective)
```
Comment (erdOne) [inline Mathlib/RingTheory/MvPowerSeries/Rename.lean]: I think this should instead take `(f : σ ↪ τ)`.

File: Mathlib/RingTheory/MvPowerSeries/Rename.lean [hunk 3]
```diff
@@ -0,0 +1,426 @@
...
+
+namespace MvPowerSeries
+
+open Classical in
+/-- Rename all the variables in a multivariable power series by an injective map, as a function. -/
+def renameFun (p : MvPowerSeries σ R) : MvPowerSeries τ R :=
+  fun x ↦ if SetLike.coe x.support ⊆ Set.range f then
+    coeff (x.comapDomain f hf.injOn) p else 0
```
Comment (erdOne) [inline Mathlib/RingTheory/MvPowerSeries/Rename.lean]: This might then be a better definition?
```suggestion
  Function.extend (embDomain f) p 0
```

Comment (erdOne) [reply Mathlib/RingTheory/MvPowerSeries/Rename.lean]: Then if you prove

```lean
lemma _root_.Finsupp.mem_range_embDomain_iff
    {α β M : Type*} [AddCommMonoid M] {f : α ↪ β} {x : β →₀ M} :
    x ∈ Set.range (Finsupp.embDomain f) ↔ ↑x.support ⊆ Set.range f := by
  convert mem_range_mapDomain_iff _ f.injective _
  · ext; rw [embDomain_eq_mapDomain]
  · grind

@[simp]
lemma _root_.Finsupp.comapDomain_embDomain {α β M : Type*} [AddCommMonoid M]
    (f : α ↪ β) (l : α →₀ M) :
    comapDomain f (embDomain f l) f.injective.injOn = l :=
  embDomain_eq_mapDomain f l ▸ comapDomain_mapDomain _ f.injective _

@[simp]
theorem coeff_embDomain_renameFun (p : MvPowerSeries σ R) (x : σ →₀ ℕ) :
    coeff (embDomain f x) (renameFun f p) = coeff x p :=
  ((embDomain_injective f).factorsThrough _).extend_apply _ _

theorem renameFun_mvPolynomial (p : MvPolynomial σ R) :
    renameFun f (p : MvPowerSeries σ R) = p.rename f := by
  ext n
  obtain (⟨n, rfl⟩ | h) := em (n ∈ Set.range (embDomain f))
  · simp
  · refine (Function.extend_apply' _ _ _ h).trans
      (MvPolynomial.coeff_rename_eq_zero _ _ _ fun u hu ↦ ?_).symm
    obtain rfl : u.embDomain f = n := by rwa [embDomain_eq_mapDomain]
    simp at h
```
All the `rename_monomial`, `rename_X`, `renameFun_commutes` etc will all be trivial.

Comment (BryceT233) [reply Mathlib/RingTheory/MvPowerSeries/Rename.lean]: I see your points, let me work with the new definition and see how the simplifications go!

File: Mathlib/RingTheory/MvPowerSeries/Rename.lean (hunk 1 above)
Comment (BryceT233) [reply Mathlib/RingTheory/MvPowerSeries/Rename.lean]: Thanks!

File: Mathlib/RingTheory/MvPowerSeries/Rename.lean [hunk 4]
```diff
@@ -0,0 +1,252 @@
...
+variable (f : σ ↪ τ)
+
+namespace MvPowerSeries
+
+/-- Rename all the variables in a multivariable power series by an embedding, as a function. -/
+def renameFun (p : MvPowerSeries σ R) : MvPowerSeries τ R := Function.extend (embDomain f) p 0
+
+@[simp]
+theorem coeff_embDomain_renameFun (p : MvPowerSeries σ R) (x : σ →₀ ℕ) :
+    (renameFun f p).coeff (embDomain f x)  = p.coeff x :=
```
Comment (erdOne) [inline Mathlib/RingTheory/MvPowerSeries/Rename.lean]:
```suggestion
    (renameFun f p).coeff (embDomain f x) = p.coeff x :=
```

File: Mathlib/RingTheory/MvPowerSeries/Rename.lean [hunk 5]
```diff
@@ -0,0 +1,252 @@
...
+def rename : MvPowerSeries σ R →ₐ[R] MvPowerSeries τ R := {
+  toFun := renameFun f
+  map_one' := renameFun_monomial f 0 1
+  map_mul' := renameFun_mul f
+  map_zero' := by ext; rw [renameFun, Function.extend_zero]
+  map_add' _ _ := by
+    simp only [renameFun]
+    nth_rw 1 [← add_zero (0 : (τ →₀ ℕ) → R), Function.extend_add]
+  commutes' := renameFun_monomial f 0
+}
```
Comment (erdOne) [inline Mathlib/RingTheory/MvPowerSeries/Rename.lean]:
```suggestion
def rename : MvPowerSeries σ R →ₐ[R] MvPowerSeries τ R where
  toFun := renameFun f
  map_one' := renameFun_monomial f 0 1
  map_mul' := renameFun_mul f
  map_zero' := by ext; rw [renameFun, Function.extend_zero]
  map_add' _ _ := by
    simp only [renameFun]
    nth_rw 1 [← add_zero (0 : (τ →₀ ℕ) → R), Function.extend_add]
  commutes' := renameFun_monomial f 0
```

Comment (erdOne) [reply Mathlib/RingTheory/MvPowerSeries/Rename.lean]: Also I think this should be the main API, so we should try to discourage people from using `renameFun` directly. We can achieve this by tagging `renameFun` (and all the lemmas mentioning `renameFun`; they should be copied to `rename`) private (you might also need `@[no_expose]` on `rename`), explaining in the docstring in `renameFun` that we should use `rename` instead.

Comment (erdOne) [reply Mathlib/RingTheory/MvPowerSeries/Rename.lean]: Same for `killCompl`.

File: Mathlib/RingTheory/MvPowerSeries/Rename.lean [hunk 6]
```diff
@@ -0,0 +1,252 @@
...
+variable (R)
+
+/-- `rename` is an equivalence when the underlying map is an equivalence. -/
+@[simps apply]
+def renameEquiv (e : σ ≃ τ) : MvPowerSeries σ R ≃ₐ[R] MvPowerSeries τ R := {
+  rename e with
+  invFun := rename e.symm
+  left_inv _ := by simp
+  right_inv _ := by simp
+}
```
Comment (erdOne) [inline Mathlib/RingTheory/MvPowerSeries/Rename.lean]:
```suggestion
def renameEquiv (e : σ ≃ τ) : MvPowerSeries σ R ≃ₐ[R] MvPowerSeries τ R where
  __ := rename e
  invFun := rename e.symm
  left_inv _ := by simp
  right_inv _ := by simp
```

File: Mathlib/RingTheory/MvPowerSeries/Rename.lean [hunk 7]
```diff
@@ -0,0 +1,252 @@
...
+
++ `x : σ →₀ ℕ`, a function from `σ` to `ℕ` which is zero away from a finite set.
+This will give rise to a monomial in `MvPowerSeries σ R`
+
++ `r : R` elements of the coefficient ring
+
++ `i : σ`, with corresponding monomial `X i`, often denoted `X_i` by mathematicians
+
++ `p q : MvPowerSeries σ R`
+
```
Comment (erdOne) [inline Mathlib/RingTheory/MvPowerSeries/Rename.lean]: I think this is unnecessary in this file.

File: Mathlib/RingTheory/MvPowerSeries/Rename.lean [hunk 8]
```diff
@@ -0,0 +1,252 @@
...
+-/
+
+@[expose] public section
+
+
```
Comment (erdOne) [inline Mathlib/RingTheory/MvPowerSeries/Rename.lean]:
```suggestion

```

File: Mathlib/RingTheory/MvPowerSeries/Rename.lean (hunk 5 above)
Comment (BryceT233) [reply Mathlib/RingTheory/MvPowerSeries/Rename.lean]: I tested making `renameFun` or `killComplFun` private, for some reason the file failed to pass the checks with errors like "Unknown identifier `renameFun`". The lemmas mentioning these two definitions can be made private with no problem.

File: Mathlib/RingTheory/MvPowerSeries/Rename.lean (hunk 7 above)
Comment (BryceT233) [reply Mathlib/RingTheory/MvPowerSeries/Rename.lean]: removed!

File: Mathlib/RingTheory/MvPowerSeries/Basic.lean [hunk 9]
```diff
@@ -392,7 +392,7 @@ theorem commute_X_pow (φ : MvPowerSeries σ R) (s : σ) (n : ℕ) : Commute φ
 theorem X_pow_mul {φ : MvPowerSeries σ R} {s : σ} {n : ℕ} : X s ^ n * φ = φ * X s ^ n :=
   φ.commute_X_pow s n |>.symm.eq
 
-theorem X_def (s : σ) : X s = monomial (single s 1) 1 :=
+theorem X_def (s : σ) : X s = monomial (single s 1) (1 : R) :=
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPowerSeries/Basic.lean:397]: What happened here?

File: Mathlib/RingTheory/MvPowerSeries/Rename.lean [hunk 10]
```diff
@@ -0,0 +1,249 @@
...
+-/
+
+@[expose] public section
+
+noncomputable section
+
+open Finset Finsupp
+
+variable {σ τ α R S : Type*} [CommSemiring R] [CommSemiring S]
+variable (f : σ ↪ τ)
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPowerSeries/Rename.lean]: Do you assume injectivity? I think that having finite fibers is enough. You can maybe have a look at #23499, where I started working on this.

File: Mathlib/RingTheory/MvPowerSeries/Basic.lean (hunk 9 above)
Comment (BryceT233) [reply Mathlib/RingTheory/MvPowerSeries/Basic.lean:397]: I think this was a typo? otherwise it only works for power series over the natural numbers

File: Mathlib/RingTheory/MvPowerSeries/Rename.lean (hunk 10 above)
Comment (BryceT233) [reply Mathlib/RingTheory/MvPowerSeries/Rename.lean]: Yes, finiteness on fibers should work, I was thinking greater generality would complicate the formalization a lot. I can try to change `Function.extend` to sum over a finite fiber, then change `embDomain` to `mapDomain`

Comment (riccardobrasca) [reply Mathlib/RingTheory/MvPowerSeries/Rename.lean]: I really think at least the definition should be in full generality, something like
```lean
variable [CommRing R] (f : σ → τ) [hf : Fact (Tendsto f cofinite cofinite)]

def rename : MvPowerSeries σ R →ₐ[R] MvPowerSeries τ R :=
  substAlgHom (HasSubst.X_comp hf.out)
```
You can make additional assumptions in theorems if you want, that is not a problem.

Comment (erdOne) [reply Mathlib/RingTheory/MvPowerSeries/Rename.lean]: I'm not sure about this. Just like we have both `embDomain` and `mapDomain`, we could have both of these variants. It seems to me that `Fact (Tendsto f cofinite cofinite)` would make it quite hard to use.

Comment (BryceT233) [reply Mathlib/RingTheory/MvPowerSeries/Rename.lean]: I just finished an update that generalized the definition to maps with finite fibers! It seems to me that the finite fiber case is not too hard as I thought

File: Mathlib/Data/Finsupp/Basic.lean [hunk 11]
```diff
@@ -1311,4 +1311,40 @@ theorem sigmaFinsuppAddEquivPiFinsupp_apply {α : Type*} {ιs : η → Type*} [A
 
 end Sigma
 
+lemma mem_range_embDomain_iff {α β M : Type*} [AddCommMonoid M] {f : α ↪ β}
```
Comment (riccardobrasca) [inline Mathlib/Data/Finsupp/Basic.lean]: Can you use types already in scope or a `variable` line?

File: Mathlib/Data/Finsupp/Basic.lean [hunk 12]
```diff
@@ -1311,4 +1311,40 @@ theorem sigmaFinsuppAddEquivPiFinsupp_apply {α : Type*} {ιs : η → Type*} [A
...
+  rw [mem_support_iff, ne_eq, Finset.mem_image]
+  refine ⟨?_, fun ⟨i, i_in, hi⟩ ↦ ?_⟩
+  · simpa [mapDomain, sum, single_apply] using fun i h h' _ ↦ ⟨i, h, h'⟩
+  simpa [mapDomain, sum, ← hi, single_apply] using ⟨i, by simp [mem_support_iff.mp i_in]⟩
+
+theorem mapDomain_apply_eq_sum {M σ τ : Type*} [DecidableEq τ] [AddCommMonoid M] {f : σ → τ}
+    {x : σ →₀ M} {a : σ} : (x.mapDomain f) (f a) = ∑ i ∈ x.support with f i = f a, x i := by
+  simp [mapDomain, sum, single_apply, Finset.sum_ite]
+
+theorem mapDomain_apply_eq_zero_iff {M σ τ : Type*} [AddCommMonoid M] {f : σ → τ}
```
Comment (riccardobrasca) [inline Mathlib/Data/Finsupp/Basic.lean]: All the variable you declared all implicit, can you have a look at which ones is reasonable to have explicit?

File: Mathlib/Data/Finsupp/Weight.lean [hunk 13]
```diff
@@ -263,6 +263,21 @@ lemma range_single_one :
     obtain ⟨a, rfl⟩ := (Finsupp.sum_eq_one_iff _).mp hp
     use a
 
+theorem degree_mapDomain_eq {M τ : Type*} {f : σ → τ} [AddCommMonoid M] [Subsingleton (AddUnits M)]
+    {x : σ →₀ M} : degree (x.mapDomain f) = degree x := by
```
Comment (riccardobrasca) [inline Mathlib/Data/Finsupp/Weight.lean]:
```suggestion
theorem degree_mapDomain_eq {M τ : Type*} (f : σ → τ) [AddCommMonoid M] [Subsingleton (AddUnits M)]
    (x : σ →₀ M) : degree (x.mapDomain f) = degree x := by
```

File: Mathlib/RingTheory/MvPowerSeries/Basic.lean (hunk 9 above)
Comment (riccardobrasca) [reply Mathlib/RingTheory/MvPowerSeries/Basic.lean:397]: Isn't this fixed in another PR? I remember having seen this (but maybe it was something similar).

File: Mathlib/RingTheory/MvPowerSeries/Rename.lean [hunk 14]
```diff
@@ -0,0 +1,341 @@
...
+section FiberFinite
+
+variable {M : Type*} [AddCommMonoid M]
+
+namespace Function
+
+variable (f) in
+/-- `Function.FiberFinite f` means that for every `y` in the codomain,
+the preimage `f ⁻¹' {y}` is a finite set. -/
+def FiberFinite := ∀ y, (f ⁻¹' {y}).Finite
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPowerSeries/Rename.lean]: As you prove later, this is equivalent to `Tendsto f cofinite cofinite`. There is really no need to introduce a new definition. If need lemmas about this notion just add them to the place where `Tendsto f cofinite cofinite` is defined (for example the lemma that is equivalent to finite fibers is surely useful, but it shouldn't be here).

File: Mathlib/RingTheory/MvPowerSeries/Basic.lean (hunk 9 above)
Comment (BryceT233) [reply Mathlib/RingTheory/MvPowerSeries/Basic.lean:397]: I'm not sure, if it is fixed then I should be having a conflict here

File: Mathlib/RingTheory/MvPowerSeries/Rename.lean (hunk 14 above)
Comment (BryceT233) [reply Mathlib/RingTheory/MvPowerSeries/Rename.lean]: Thanks for the suggestions! I find that `Order/Filter/Cofinite.lean` could be a home for this. About naming this property `Tendsto f cofinite cofinite`, I still believe  `FiniteFiber` or `FinitePreimage` is more intuitive than something like `TendstoCofinite`, what do you think?

Comment (riccardobrasca) [reply Mathlib/RingTheory/MvPowerSeries/Rename.lean]: Feel free to add an `abbrev`, maybe even a `notation` and to show that it's equivalent to what the name suggest. In general adding a new `def` just creates an abstraction barrier, as Lean cannot see through definitions.

File: Mathlib/RingTheory/MvPowerSeries/Basic.lean (hunk 9 above)
Comment (riccardobrasca) [reply Mathlib/RingTheory/MvPowerSeries/Basic.lean:397]: Yeah, maybe this is the PR I have in mind :)

File: Mathlib/RingTheory/MvPowerSeries/Rename.lean [hunk 15]
```diff
@@ -0,0 +1,307 @@
...
+public import Mathlib.Order.Filter.Cofinite
+public import Mathlib.RingTheory.MvPowerSeries.Basic
+
+/-!
+# Renaming variables of power series
+
+This file establishes the `rename` operation on multivariate power series
+under a map with finite fibers, which modifies the set of variables.
+
+This file is patterned after `MvPolynomials/Rename.lean`
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/MvPowerSeries/Rename.lean]:
```suggestion
This file is patterned after `Mathlib/Algebra/MvPolynomial/Rename.lean`.
```

File: Mathlib/RingTheory/MvPowerSeries/Rename.lean [hunk 16]
```diff
@@ -0,0 +1,307 @@
...
+    Set.mem_setOf_eq]
+  refine fun y hy ↦ ⟨y.comapDomain e e.injective.injOn, ?_, embDomain_comapDomain ?_⟩
+  · rw [← hy, degree_mapDomain_eq]
+    exact degree_comapDomain_le ..
+  suffices y.support ⊆ s by simpa [e]
+  simpa [← hy, mapDomain, sum, Finset.subset_iff, single_apply, s] using
+    fun i hi ↦ ⟨i, by simp [hi]⟩
+
+private theorem antidiagonal_renameFunAux [DecidableEq σ] (h : TendstoCofinite f)
+    (x : τ →₀ ℕ) : {p : (σ →₀ ℕ) × (σ →₀ ℕ) × (σ →₀ ℕ) | (p.1).mapDomain f = x ∧
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/MvPowerSeries/Rename.lean]: Slightly more readable as:
```suggestion
private theorem antidiagonal_renameFunAux [DecidableEq σ] (h : TendstoCofinite f) (x : τ →₀ ℕ) :
    {p : (σ →₀ ℕ) × (σ →₀ ℕ) × (σ →₀ ℕ) | (p.1).mapDomain f = x ∧
```

File: Mathlib/RingTheory/MvPowerSeries/Rename.lean [hunk 17]
```diff
@@ -0,0 +1,307 @@
...
+      ((mapDomain_tendstoCofinite h).finite_preimage_singleton q.2).toFinset))))
+  · exact Finset.finite_toSet ..
+  · intro; simp
+    grind
+
+private theorem antidiagonal_renameFunAuxImage [DecidableEq σ] [DecidableEq τ]
+    (h : TendstoCofinite f) (x : τ →₀ ℕ) :
+      (antidiagonal_renameFunAux' h x).toFinset.image (fun (_, b) ↦ (b.1 + b.2, b)) =
+    (antidiagonal_renameFunAux h x).toFinset := by
+  ext ⟨_,_,_⟩
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/MvPowerSeries/Rename.lean]:
```suggestion
    (antidiagonal_renameFunAux' h x).toFinset.image (fun (_, b) ↦ (b.1 + b.2, b)) =
      (antidiagonal_renameFunAux h x).toFinset := by
  ext ⟨_, _, _⟩
```

File: Mathlib/RingTheory/MvPowerSeries/Rename.lean [hunk 18]
```diff
@@ -0,0 +1,307 @@
...
+    (s := ↑(((mapDomain_tendstoCofinite h).finite_preimage_singleton x).toFinset.sup
+    (fun y ↦ Finset.product {y} (Finset.antidiagonal y))))
+  · exact Finset.finite_toSet ..
+  · intro; simp
+    grind
+
+private theorem antidiagonal_renameFunAux' [DecidableEq τ] (h : TendstoCofinite f)
+    (x : τ →₀ ℕ) : {p : ((τ →₀ ℕ) × (τ →₀ ℕ)) × (σ →₀ ℕ) × (σ →₀ ℕ) | p.1 ∈ Finset.antidiagonal x
+      ∧ p.2 ∈ ((mapDomain_tendstoCofinite h).finite_preimage_singleton p.1.1).toFinset ×ˢ
+    ((mapDomain_tendstoCofinite h).finite_preimage_singleton p.1.2).toFinset}.Finite := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/MvPowerSeries/Rename.lean]: Maybe
```suggestion
private theorem antidiagonal_renameFunAux' [DecidableEq τ] (h : TendstoCofinite f) (x : τ →₀ ℕ) :
    {p : ((τ →₀ ℕ) × (τ →₀ ℕ)) × (σ →₀ ℕ) × (σ →₀ ℕ) |
      p.1 ∈ Finset.antidiagonal x ∧
      p.2 ∈ ((mapDomain_tendstoCofinite h).finite_preimage_singleton p.1.1).toFinset ×ˢ
        ((mapDomain_tendstoCofinite h).finite_preimage_singleton p.1.2).toFinset}.Finite := by
```

File: Mathlib/RingTheory/MvPowerSeries/Rename.lean [hunk 19]
```diff
@@ -0,0 +1,307 @@
...
+section killCompl
+
+variable {e : σ ↪ τ}
+
+/-- Implementation detail for `killCompl`. Use `MvPowerSeries.killCompl` instead. -/
+def killComplFun (e : σ ↪ τ) (p : MvPowerSeries τ R) : MvPowerSeries σ R :=
+  fun x ↦ coeff (embDomain e x) p
+
+private theorem coeff_killComplFun (p : MvPowerSeries τ R) (x : σ →₀ ℕ) :
+  coeff x (killComplFun e p) = coeff (embDomain e x) p := by rfl
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/MvPowerSeries/Rename.lean]:
```suggestion
    coeff x (killComplFun e p) = coeff (embDomain e x) p := by rfl
```

File: Mathlib/Data/Finsupp/Basic.lean [hunk 20]
```diff
@@ -1311,4 +1311,39 @@ theorem sigmaFinsuppAddEquivPiFinsupp_apply {α : Type*} {ιs : η → Type*} [A
...
+  · grind
+
+@[simp]
+lemma embDomain_refl [Zero M] : embDomain (M := M) (Function.Embedding.refl α) = id := by
+  ext; simp [embDomain_apply]
+
+theorem embDomain_comp [AddCommMonoid M] {v : α →₀ M} {f : α ↪ β} {g : β ↪ γ} :
+    embDomain (f.trans g) v = embDomain g (embDomain f v) := by
+  simp only [embDomain_eq_mapDomain, ← mapDomain_comp]
+  rfl
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Finsupp/Basic.lean]:
```suggestion
  simp only [embDomain_eq_mapDomain, ← mapDomain_comp, Embedding.coe_trans]
```

File: Mathlib/Order/Filter/Cofinite.lean [hunk 21]
```diff
@@ -274,3 +274,32 @@ lemma Function.update_eventuallyEq [DecidableEq α] (f : α → β) (a : α) (b
...
+theorem tendstoCofinite_iff_finite_preimage_singleton : TendstoCofinite f ↔
+    ∀ b : β, Set.Finite (f ⁻¹' {b}) := ⟨fun h ↦ TendstoCofinite.finite_preimage_singleton h,
+  fun h ↦ ⟨Filter.Tendsto.cofinite_of_finite_preimage_singleton h⟩⟩
+
+lemma Function.Injective.tendstoCofinite (h : f.Injective) : TendstoCofinite f :=
+  ⟨h.tendsto_cofinite⟩
+
+lemma TendstoCofinite.comp (h' : TendstoCofinite g) (h : TendstoCofinite f) :
+    TendstoCofinite (g ∘ f) := tendstoCofinite_iff_finite_preimage_singleton.mpr (fun r ↦ by
+  simpa using h.finite_preimage (h'.finite_preimage (by simp)))
```
Comment (Ruben-VandeVelde) [inline Mathlib/Order/Filter/Cofinite.lean]:
```suggestion
    TendstoCofinite (g ∘ f) :=
  tendstoCofinite_iff_finite_preimage_singleton.mpr (fun r ↦ by
    simpa using h.finite_preimage (h'.finite_preimage (by simp)))
```

**Review by Ruben-VandeVelde — COMMENTED** [review]
Thanks, some small comments below

**Comment by riccardobrasca** [comment]
> Since it is unlikely to be used elsewhere, I am considering moving `Finsupp.antidiagonal_image_prodMap_embDomain` to `Rename.lean` and making it a `private lemma`. This would also resolve the large import issue.



> Since it is unlikely to be used elsewhere, I am considering moving `Finsupp.antidiagonal_image_prodMap_embDomain` to `Rename.lean` and making it a `private lemma`. This would also resolve the large import issue.

I think it is fine where it is, don't worry about the large import, it is just a warning.

File: Mathlib/Data/Finsupp/Antidiagonal.lean [hunk 22]
```diff
@@ -72,4 +74,19 @@ theorem antidiagonal_single (a : α) (n : ℕ) :
   · rintro ⟨a, b, rfl, rfl, rfl⟩
     exact (single_add _ _ _).symm
 
+theorem antidiagonal_image_prodMap_embDomain {β : Type*} [DecidableEq β] (f : α ↪ β)
```
Comment (riccardobrasca) [inline Mathlib/Data/Finsupp/Antidiagonal.lean]: Can you check this name? It starts with `antidiagonal`, but the declaration start with `image`.

File: Mathlib/Data/Finsupp/Basic.lean [hunk 23]
```diff
@@ -1311,4 +1311,38 @@ theorem sigmaFinsuppAddEquivPiFinsupp_apply {α : Type*} {ιs : η → Type*} [A
...
 end Sigma
 
+lemma mem_range_embDomain_iff [AddCommMonoid M] (f : α ↪ β) {x : β →₀ M} :
+    x ∈ Set.range (embDomain f) ↔ ↑x.support ⊆ Set.range f := by
+  convert mem_range_mapDomain_iff _ f.injective _
+  · ext; rw [embDomain_eq_mapDomain]
+  · grind
+
+@[simp]
+lemma embDomain_refl [Zero M] : embDomain (M := M) (Function.Embedding.refl α) = id := by
```
Comment (riccardobrasca) [inline Mathlib/Data/Finsupp/Basic.lean]: Can you move this closer to the definition of `embDomain`?

File: Mathlib/Data/Finsupp/Basic.lean [hunk 24]
```diff
@@ -1311,4 +1311,38 @@ theorem sigmaFinsuppAddEquivPiFinsupp_apply {α : Type*} {ιs : η → Type*} [A
...
+  ext; simp [embDomain_apply]
+
+theorem embDomain_comp [AddCommMonoid M] {v : α →₀ M} {f : α ↪ β} {g : β ↪ γ} :
```
Comment (riccardobrasca) [inline Mathlib/Data/Finsupp/Basic.lean]: Looking at the other declarations in this file i think `f`, `g` and `v` should be explicit.

Also, this is an applied version of the theorem about the composition. It is maybe worth to have an unapplied one (without the `v`), or to call this `blah_apply`.

File: Mathlib/Data/Finsupp/Basic.lean [hunk 25]
```diff
@@ -1311,4 +1311,38 @@ theorem sigmaFinsuppAddEquivPiFinsupp_apply {α : Type*} {ιs : η → Type*} [A
...
+  rw [mem_support_iff, ne_eq, Finset.mem_image]
+  refine ⟨?_, fun ⟨i, i_in, hi⟩ ↦ ?_⟩
+  · simpa [mapDomain, sum, single_apply] using fun i h h' _ ↦ ⟨i, h, h'⟩
+  simpa [mapDomain, sum, ← hi, single_apply] using ⟨i, by simp [mem_support_iff.mp i_in]⟩
+
+theorem mapDomain_apply_eq_sum [DecidableEq β] [AddCommMonoid M] (f : α → β)
+    (x : α →₀ M) {a : α} : (x.mapDomain f) (f a) = ∑ i ∈ x.support with f i = f a, x i := by
+  simp [mapDomain, sum, single_apply, Finset.sum_ite]
+
+theorem mapDomain_apply_eq_zero_iff [AddCommMonoid M] (f : α → β) [Subsingleton (AddUnits M)]
```
Comment (riccardobrasca) [inline Mathlib/Data/Finsupp/Basic.lean]: The other one with `[Subsingleton (AddUnits M)]` has `subsingletonAddUnits` in the name: I think you can remove this in both, but if you prefer to have it in both no problems, but make the same choice for the two declarations.

File: Mathlib/Data/Finsupp/Order.lean [hunk 26]
```diff
@@ -286,6 +286,15 @@ lemma sub_add_single_one_cancel {u : ι →₀ ℕ} {i : ι} (h : u i ≠ 0) :
...
   rw [sub_single_one_add h, add_tsub_cancel_right]
 
+theorem isLowerSet_range_embDomain (f : α ↪ β) :
+    IsLowerSet ((Set.range (embDomain f)) : Set (β →₀ ℕ)) := by
+  rintro _ y h ⟨z, rfl⟩
+  obtain ⟨w, hw⟩ := exists_add_of_le h
+  rw [mem_range_embDomain_iff]
+  trans ↑(y + w).support
+  · exact fun _ ↦ by simp; grind
+  simp [← hw]
```
Comment (riccardobrasca) [inline Mathlib/Data/Finsupp/Order.lean]:
```suggestion
  · simp [← hw]
```

File: Mathlib/Data/Finsupp/Weight.lean [hunk 27]
```diff
@@ -263,6 +263,21 @@ lemma range_single_one :
     obtain ⟨a, rfl⟩ := (Finsupp.sum_eq_one_iff _).mp hp
     use a
 
+theorem degree_mapDomain_eq {M τ : Type*} (f : σ → τ) [AddCommMonoid M] [Subsingleton (AddUnits M)]
+    (x : σ →₀ M) : degree (x.mapDomain f) = degree x := by
+  classical
+  trans (x.mapDomain f).sum (fun _ ↦ id)
+  · simp [degree, sum]
+  simpa [sum, mapDomain_support_of_subsingletonAddUnits, degree] using Finset.sum_image' _
+    (fun _ _ ↦ mapDomain_apply_eq_sum ..)
```
Comment (riccardobrasca) [inline Mathlib/Data/Finsupp/Weight.lean]:
```suggestion
  · simpa [sum, mapDomain_support_of_subsingletonAddUnits, degree] using Finset.sum_image' _
      (fun _ _ ↦ mapDomain_apply_eq_sum ..)
```

File: Mathlib/Data/Finsupp/Weight.lean [hunk 28]
```diff
@@ -263,6 +263,21 @@ lemma range_single_one :
     obtain ⟨a, rfl⟩ := (Finsupp.sum_eq_one_iff _).mp hp
     use a
 
+theorem degree_mapDomain_eq {M τ : Type*} (f : σ → τ) [AddCommMonoid M] [Subsingleton (AddUnits M)]
```
Comment (riccardobrasca) [inline Mathlib/Data/Finsupp/Weight.lean]: Note the comment in the other file about the name.

Comment (riccardobrasca) [inline Mathlib/Data/Finsupp/Weight.lean]:
```suggestion
theorem degree_mapDomain_eq {τ : Type*} (f : σ → τ) [AddCommMonoid M] [Subsingleton (AddUnits M)]
```

File: Mathlib/Data/Finsupp/Weight.lean [hunk 29]
```diff
@@ -263,6 +263,21 @@ lemma range_single_one :
...
+    (x : σ →₀ M) : degree (x.mapDomain f) = degree x := by
+  classical
+  trans (x.mapDomain f).sum (fun _ ↦ id)
+  · simp [degree, sum]
+  simpa [sum, mapDomain_support_of_subsingletonAddUnits, degree] using Finset.sum_image' _
+    (fun _ _ ↦ mapDomain_apply_eq_sum ..)
+
+theorem degree_comapDomain_le {M τ : Type*} {f : σ → τ} [AddCommMonoid M] [PartialOrder M]
```
Comment (riccardobrasca) [inline Mathlib/Data/Finsupp/Weight.lean]:
```suggestion
theorem degree_comapDomain_le {τ : Type*} {f : σ → τ} [AddCommMonoid M] [PartialOrder M]
```

File: Mathlib/Order/Filter/Cofinite.lean [hunk 30]
```diff
@@ -274,3 +274,33 @@ lemma Function.update_eventuallyEq [DecidableEq α] (f : α → β) (a : α) (b
 lemma Function.update_eventuallyEq_cofinite [DecidableEq α] (f : α → β) (a : α) (b : β) :
     Function.update f a b =ᶠ[cofinite] f :=
   (Function.update_eventuallyEq f a b).filter_mono (by simp)
+
+section TendstoCofinite
+
+variable {f : α → β} {g : β → ι}
+
+/-- The class of functions `f` such that `Tendsto f cofinite cofinite`. -/
+@[mk_iff] class TendstoCofinite (f : α → β) : Prop where
```
Comment (riccardobrasca) [inline Mathlib/Order/Filter/Cofinite.lean]: Making it a class seems a very good idea to me! Can you add in the docstring that this is equivalent to having finite fibers?

File: Mathlib/Order/Filter/Cofinite.lean [hunk 31]
```diff
@@ -274,3 +274,33 @@ lemma Function.update_eventuallyEq [DecidableEq α] (f : α → β) (a : α) (b
 lemma Function.update_eventuallyEq_cofinite [DecidableEq α] (f : α → β) (a : α) (b : β) :
     Function.update f a b =ᶠ[cofinite] f :=
   (Function.update_eventuallyEq f a b).filter_mono (by simp)
+
+section TendstoCofinite
```
Comment (riccardobrasca) [inline Mathlib/Order/Filter/Cofinite.lean]:
```suggestion
namespace Filter.TendstoCofinite
```
This will require to remove the various `TendstoCofinite` in names, and note the definition `TendstoCofinite` should become `_root_.Filter.TendstoCofinite`.

File: Mathlib/Order/Filter/Cofinite.lean [hunk 32]
```diff
@@ -274,3 +274,33 @@ lemma Function.update_eventuallyEq [DecidableEq α] (f : α → β) (a : α) (b
...
+variable {f : α → β} {g : β → ι}
+
+/-- The class of functions `f` such that `Tendsto f cofinite cofinite`. -/
+@[mk_iff] class TendstoCofinite (f : α → β) : Prop where
+  tendsto_cofinite : Tendsto f cofinite cofinite
+
+lemma TendstoCofinite.finite_preimage (h : TendstoCofinite f) {s : Set β} (hs : s.Finite) :
+    Set.Finite (f ⁻¹' s) := by
+  simpa [compl_eq_univ_diff] using h.tendsto_cofinite (show univ \ s ∈ cofinite by
+    simpa [compl_eq_univ_diff])
```
Comment (riccardobrasca) [inline Mathlib/Order/Filter/Cofinite.lean]:
```suggestion
lemma finite_preimage [TendstoCofinite f] {s : Set β} (hs : s.Finite) :
    Set.Finite (f ⁻¹' s) := by
  simpa [compl_eq_univ_diff] using tendsto_cofinite (show univ \ s ∈ cofinite by
    simpa [compl_eq_univ_diff])
```
Since you made `TendstoCofinite` a class you should use it this way. If you prefer to have `f` explicit in `tendsto_cofinite` you can use
```lean
@[mk_iff] class _root_.Filter.TendstoCofinite (f : α → β) : Prop where
  tendsto_cofinite (f) : Tendsto f cofinite cofinite
```

File: Mathlib/Order/Filter/Cofinite.lean [hunk 33]
```diff
@@ -274,3 +274,33 @@ lemma Function.update_eventuallyEq [DecidableEq α] (f : α → β) (a : α) (b
...
+
+lemma TendstoCofinite.finite_preimage_singleton (h : TendstoCofinite f) (b : β) :
```
Comment (riccardobrasca) [inline Mathlib/Order/Filter/Cofinite.lean]:
```suggestion
lemma TendstoCofinite.finite_preimage_singleton [TendstoCofinite f] (b : β) :
```
Same in all the declarations below.

File: Mathlib/Order/Filter/Cofinite.lean [hunk 34]
```diff
@@ -274,3 +274,33 @@ lemma Function.update_eventuallyEq [DecidableEq α] (f : α → β) (a : α) (b
...
+  fun h ↦ ⟨Filter.Tendsto.cofinite_of_finite_preimage_singleton h⟩⟩
+
+lemma Function.Injective.tendstoCofinite (h : f.Injective) : TendstoCofinite f :=
+  ⟨h.tendsto_cofinite⟩
+
+lemma TendstoCofinite.comp (h' : TendstoCofinite g) (h : TendstoCofinite f) :
+    TendstoCofinite (g ∘ f) :=
+  tendstoCofinite_iff_finite_preimage_singleton.mpr (fun r ↦ by
+    simpa using h.finite_preimage (h'.finite_preimage (by simp)))
+
```
Comment (riccardobrasca) [inline Mathlib/Order/Filter/Cofinite.lean]: Can you add an `instance` for an embedding?

**Review by riccardobrasca — COMMENTED** [review]
I didn't have a look at the juicy file, but with this comment the rest LGTM.

File: Mathlib/Data/Finsupp/Basic.lean (hunk 25 above)
Comment (BryceT233) [reply Mathlib/Data/Finsupp/Basic.lean]: I included `subsingletonAddUnits` in `mapDomain_support_of_subsingletonAddUnits` to distinguish it from the three other lemmas that also have `mapDomain_support` in their names. Since `mapDomain_apply_eq_zero_iff` is already unique, I felt it didn't need the extra suffix. Let me know if you'd still prefer me to make them consistent, though!

Comment (riccardobrasca) [reply Mathlib/Data/Finsupp/Basic.lean]: I think consistency is a good think, so let's add it to `mapDomain_apply_eq_zero_iff`.

File: Mathlib/RingTheory/MvPowerSeries/Rename.lean [hunk 35]
```diff
@@ -0,0 +1,309 @@
...
+module
+
+public import Mathlib.Order.Filter.Cofinite
+public import Mathlib.RingTheory.MvPowerSeries.Basic
+public import Mathlib.Algebra.MvPolynomial.Rename
+
+/-!
+# Renaming variables of power series
+
+This file establishes the `rename` operation on multivariate power series
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPowerSeries/Rename.lean:15]: Can you add a comment explaining that a condition is needed? I like the example from power series of infinitely many variables to one variable power series. You cannot rename each `X_i` to `X` since `X_0 + X_1 + ...` is a power series.

File: Mathlib/RingTheory/MvPowerSeries/Rename.lean [hunk 36]
```diff
@@ -0,0 +1,309 @@
...
+
+@[expose] public section
+
+noncomputable section
+
+open Finsupp Filter
+
+variable {σ τ γ R M : Type*} (f : σ → τ) (g : τ → γ) [AddCommMonoid M] [TendstoCofinite f]
+
+namespace Filter.TendstoCofinite
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPowerSeries/Rename.lean]: Can you create a new file with these results, that have nothing to do with power series?

Comment (BryceT233) [reply Mathlib/RingTheory/MvPowerSeries/Rename.lean]: Sure, I will also move all of the APIs about `TendstoCofinite` in `Cofinite.lean` to this new file and name it `TendstoCofinite.lean`

File: Mathlib/Order/Filter/TendstoCofinite.lean [hunk 37]
```diff
@@ -0,0 +1,125 @@
...
+
+@[instance]
+theorem Finsupp.mapDomain_tendstoCofinite [TendstoCofinite f] :
+    TendstoCofinite (mapDomain (M := ℕ) f) := by
+  classical
+  refine (tendstoCofinite_iff_finite_preimage_singleton _).mpr fun x ↦ ?_
+  let s := Finset.sup x.support (fun t ↦ (TendstoCofinite.finite_preimage_singleton f t).toFinset)
+  let e : s ↪ α := Function.Embedding.subtype (fun u ↦ u ∈ s)
+  refine Set.Finite.subset (Set.Finite.image (embDomain e) <|
+    finite_of_degree_le (σ := s) (degree x)) ?_
```
Comment (riccardobrasca) [inline Mathlib/Order/Filter/TendstoCofinite.lean]:
```suggestion
  refine Set.Finite.subset (Set.Finite.image (embDomain e) <| finite_of_degree_le (degree x)) ?_
```

File: Mathlib/RingTheory/MvPowerSeries/Rename.lean [hunk 38]
```diff
@@ -0,0 +1,288 @@
...
+
+open Finsupp Filter
+
+variable {σ τ γ R S : Type*} (f : σ → τ) (g : τ → γ) [TendstoCofinite f]
+
+namespace MvPowerSeries
+
+section CommSemiring
+
+variable [CommSemiring R] [CommSemiring S]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPowerSeries/Rename.lean]:
```suggestion
variable [Semiring R] [Semiring S]
```
The very beginning works in this generality, why not (you may need to create a new section to avoid reintroducing `R` and `S`.)

File: Mathlib/RingTheory/MvPowerSeries/Rename.lean [hunk 39]
```diff
@@ -0,0 +1,288 @@
...
+@[simp]
+theorem constantCoeff_rename (p : MvPowerSeries σ R) :
+    constantCoeff (rename f p) = constantCoeff p := by
+  rw [← coeff_zero_eq_constantCoeff_apply, ← coeff_zero_eq_constantCoeff_apply,
+    coeff_rename, Finset.sum_eq_single 0 (by
+      simp [mapDomain_apply_eq_zero_iff_of_subsingletonAddUnits]) (by simp)]
+
+theorem rename_injective (e : σ ↪ τ) : Function.Injective (rename (R := R) e) := by
+  intro _ _ h; ext x
+  simpa using MvPowerSeries.ext_iff.mp h (embDomain e x)
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPowerSeries/Rename.lean:179]: Can you add the `inj` version? See https://leanprover-community.github.io/contribute/naming.html#injectivity

File: Mathlib/RingTheory/MvPowerSeries/Rename.lean [hunk 40]
```diff
@@ -0,0 +1,288 @@
...
+private theorem killComplFun_mul (p q : MvPowerSeries τ R) :
+    killComplFun e (p * q) = killComplFun e p * killComplFun e q := by
+  classical
+  ext
+  simp [coeff_killComplFun, coeff_mul, ← image_prodMap_embDomain_antidiagonal, Finset.sum_image
+    ((Function.Injective.injOn (Prod.map_injective.mpr ⟨embDomain_injective e,
+      embDomain_injective e⟩)))]
+
+/-- Given an embedding `e : σ ↪ τ`, `MvPowerSeries.killComplFun e` is the function from
+`R[[τ]]` to `R[[σ]]` that is left inverse to `rename e.injective.fiberFinite : R[[σ]] → R[[τ]]`
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPowerSeries/Rename.lean]: Can you use `R⟦τ⟧` in this docstring?

**Review by riccardobrasca — COMMENTED** [review]
Sorry for the very long time I took to make this review and thanks a lot! A couple of cosmetic comments and then it is ready to go.

bors d+

File: Mathlib/RingTheory/MvPowerSeries/Rename.lean (hunk 38 above)
Comment (BryceT233) [reply Mathlib/RingTheory/MvPowerSeries/Rename.lean]: I tested relaxing `R` and `S` to `Semiring`, and actually most of the file compiles fine if I only define `rename` as a `RingHom`. However, this will creates a discrepancy with the current definition of `MvPolynomial.rename`, which is defined as an `AlgHom` (requiring `CommSemiring`). I know there are ongoing works to relax the `CommSemiring` assumption in `MvPolynomial` as well. Given this context,should I:
1. Keep it as `CommSemiring` and `AlgHom` for now to maintain API symmetry with current `MvPolynomial`?
2. Go ahead with `Semiring` and `RingHom` for the general parts, and assume `CommSemiring` when defining `AlgHom` versions? (e. g. `MvPowerSeries.renameₐ`)

I prefer option 2, but what to you think?

Comment (riccardobrasca) [reply Mathlib/RingTheory/MvPowerSeries/Rename.lean]: Mmm, unless you have very good reasons I would say 1: people will almost use it in the `CommSemiring` case and it's nice to have the map as a bundled hom.
